Full-Bridge Converter
*SIMPLIS Netlist generated by Advanced Sim server on 14/08/2007 6:56:37 PM

*Schematic Netlist:
C2 1 0 10n IC=5
C3 2 0 100n
C4 3 0 1.5n IC=1.1
C5 4 5 47n
C6 4 6 100p IC=-3
C7 7 0 47p
C8 7 8 100n
XC9 9 0 SIMPLIS_ELEC_CAP_L13$0
XCout 10 0 SIMPLIS_ELEC_CAP_L13$1
X$D1 11 12 SIMetrix_MUR830
X$D2 13 12 SIMetrix_MUR830
X$D3 14 15 SIMetrix_D1N4148
X$D4 16 15 SIMetrix_D1N4148
X$D5 0 14 SIMetrix_D1N4148
X$D6 0 16 SIMetrix_D1N4148
X$D7 17 18 SIMetrix_D1N4148
X$D8 19 20 SIMetrix_D1N4148
X$D9 21 22 SIMetrix_D1N4148
X$D10 23 24 SIMetrix_D1N4148
I1 10 0 PWL NSEG=2 X0=20u Y0=0 X1=20u Y1=0 X2=30u Y2=10
XL2 25 9 SIMetrix_LOSSYL$2
XLout 12 10 SIMetrix_LOSSYL$3
XQ1 9 18 26 SIMetrix_IRF840
XQ2 9 24 27 SIMetrix_IRF840
XQ3 26 20 0 SIMetrix_IRF840
XQ4 27 22 0 SIMetrix_IRF840
X$Q5 26 28 18 SIMetrix_Q2N3906
X$Q6 0 29 22 SIMetrix_Q2N3906
X$Q7 27 30 24 SIMetrix_Q2N3906
X$Q8 0 31 20 SIMetrix_Q2N3906
R1 32 0 5.1k
R2 5 6 16k
R3 10 0 12
R4 15 0 75
R5 15 7 4.7k
R6 33 6 8.45k
R7 6 0 1k
R8 8 3 20k
R9 17 28 220
R10 34 17 15
R11 23 30 220
R12 23 35 15
R13 36 19 15
R14 19 31 220
R15 21 29 220
R16 21 37 15
XTX1 27 38 11 0 0 13 SIMPL3WTRANS vars: L1=10m RATIO1=200m RATIO2=200m
XTX2 38 26 16 14 SIMPLTRANS vars: RATIO=100
XTX3 39 40 34 26 37 0 27 35 0 36 SIMPL5WTRANS vars: L1=1m RATIO1=1 RATIO2=1 RATIO3=1 RATIO4=1
XU1 6 2 4 41 32 3 7 1 0 0 39 0 42 40 42 2 SIMPLIS_UC1825
XU2 43 44 0 45 41 SIMPLIS_TFF
V1 25 0 PWL NSEG=2 X0=0 Y0=400 X1=0 Y1=400 X2=10u Y2=400
V2 42 0 PWL NSEG=2 X0=1p Y0=12 X1=1p Y1=12 X2=1p Y2=12
V3 10 46 0
V3_AC 46 33 AC 1 0
V4 45 0 5
X1 43 47 SIMPLIS_PERIODIC_OP$4


*PLOT AC -1 1 A=CS A=V1#branch A=VBUSS A=VOUT
.PRINT V(15)
*GRAPH :15 analysis="ac" curveLabel="CS" xLog="auto" yLog="auto" nowarn=true 
.PRINT I(V1#P)
*GRAPH V1#P analysis="ac" curveLabel="V1#branch" xLog="auto" yLog="auto" nowarn=true 
.PRINT V(9)
*GRAPH :9 analysis="ac" curveLabel="VBUSS" xLog="auto" yLog="auto" nowarn=true 
.PRINT V(10)
*GRAPH :10 analysis="ac" curveLabel="VOUT" xLog="auto" yLog="auto" nowarn=true 
*PLOT TRAN -1 1 A=CS A=V1#branch A=VBUSS A=VOUT
.PRINT V(15)
*GRAPH :15 analysis="tran" curveLabel="CS" xLog="auto" yLog="auto" nowarn=true 
.PRINT I(V1#P)
*GRAPH V1#P analysis="tran" curveLabel="V1#branch" xLog="auto" yLog="auto" nowarn=true 
.PRINT V(9)
*GRAPH :9 analysis="tran" curveLabel="VBUSS" xLog="auto" yLog="auto" nowarn=true 
.PRINT V(10)
*GRAPH :10 analysis="tran" curveLabel="VOUT" xLog="auto" yLog="auto" nowarn=true 
*PLOT POP -1 1 A=CS A=V1#branch A=VBUSS A=VOUT
.PRINT V(15)
*GRAPH :15 analysis="pop" curveLabel="CS" xLog="auto" yLog="auto" nowarn=true 
.PRINT I(V1#P)
*GRAPH V1#P analysis="pop" curveLabel="V1#branch" xLog="auto" yLog="auto" nowarn=true 
.PRINT V(9)
*GRAPH :9 analysis="pop" curveLabel="VBUSS" xLog="auto" yLog="auto" nowarn=true 
.PRINT V(10)
*GRAPH :10 analysis="pop" curveLabel="VOUT" xLog="auto" yLog="auto" nowarn=true 

.OPTIONS IGNORE_UNITS
*Selected Circuit Analyses:
.POP TRIG_GATE=X1.!D_CYCLE TRIG_COND=0_TO_1 MAX_PERIOD=2E-005 CONVERGENCE=1E-014 CYCLES_BEFORE_LAUNCH=5
.OPTIONS POP_SHOWDATA
.AC DEC 25 10 1E5
.OPTIONS FREQ_DOMAIN=Z
.TRAN 0.002 0
.OPTIONS PSP_NPT=8001

*Models and Subcircuits:
.SUBCKT SIMPLIS_ELEC_CAP_L13$0 48 49
.NODE_MAP P 48
.NODE_MAP N 49
C1 48 49 1e-005
RSH 48 49 1000000
.ENDS SIMPLIS_ELEC_CAP_L13$0

.SUBCKT SIMPLIS_ELEC_CAP_L13$1 48 49
.NODE_MAP P 48
.NODE_MAP N 49
C1 48 49 0.001 IC=48
RSH 48 49 1000000
.ENDS SIMPLIS_ELEC_CAP_L13$1

.SUBCKT SIMetrix_MUR830 1 2 vars: IMAX=8 IC=0 is=4.1f N=1.0 rs=44m vj=0.75
.NODE_MAP P 1
.NODE_MAP N 2
.VAR IC = {IFF(IC<50m, 1, IFF(IC<VJ, 2, 3))}
Xx 1 2 DIODE_SPICE vars: IMAX={IMAX} IC={IC} IS={IS} N={N} RS={RS}
.ENDS SIMetrix_MUR830

.SUBCKT SIMetrix_D1N4148 1 2 vars: IMAX=0.2 IC=0 IS=1.6f N=1.0 RS=1.0 VJ=0.75
.NODE_MAP P 1
.NODE_MAP N 2
.VAR IC = {IFF(IC<50m, 1, IFF(IC<VJ, 2, 3))}
Xx 1 2 DIODE_SPICE vars: IMAX={IMAX} IC={IC} IS={IS} N={N} RS={RS}
.ENDS SIMetrix_D1N4148

.SUBCKT SIMetrix_LOSSYL$2 48 50
.NODE_MAP P 48
.NODE_MAP N 50
L1 48 51 1e-006
RSHUNT 48 51 1000000
RSERIES 50 51 0.1
.ENDS SIMetrix_LOSSYL$2

.SUBCKT SIMetrix_LOSSYL$3 48 50
.NODE_MAP P 48
.NODE_MAP N 50
L1 48 51 2e-005 IC=4
RSHUNT 48 51 1000000
RSERIES 50 51 0.01
.ENDS SIMetrix_LOSSYL$3

.subckt SIMetrix_IRF840 52 53 54
.NODE_MAP D 52
.NODE_MAP G 53
.NODE_MAP S 54
Xx 52 53 54 PWR_NMOS_SPICE vars: VGSNOM=10 IDMAX=30.6693 RDSON=799.97m KP=11.2045 VTO=3.77331 RS=37.4524m LAMBDA=728.348f IS=435.034f RSD=12.1999m N=1 CGS=1.2n VDSNOM=200 QDG0=-13.1393n QDG1=3.92948n QDG2=7.85896n QDG3=11.7884n XDG0=-5 XDG1=5.51304 XDG2=37.6311 XDG3=158.489 QDS1=692.156p QDS2=1.38431n QDS3=2.07647n XDS1=22.2834 XDS2=75.0871 XDS3=158.489
.ENDS SIMetrix_IRF840

.SUBCKT SIMetrix_Q2N3906 1 2 3 vars: IS=2.48E-13 NF=1.0 BF=400 BR=10 RB=0.0 RC=1.9 RE=0.5
.NODE_MAP C 1
.NODE_MAP B 2
.NODE_MAP E 3
Xx 1 2 3 PNP_SPICE vars: BR={BR} BF={BF} NF={NF} RC={RC} RE={RE} IS={IS} RB={RB}
.ENDS SIMetrix_Q2N3906

.SUBCKT SIMPL3WTRANS 48 50 51 55 56 57 vars: L1=1m RATIO1=1 RATIO2=1
Lx 48 50 {L1}
Xx 48 50 51 55 56 57 IDEAL3W vars: RATIO1={RATIO1} RATIO2={RATIO2}
.SUBCKT IDEAL3W 48 50 51 55 56 57 vars: RATIO1=1 RATIO2=1
!Tx N_WIND=3 48 50 N1=1 51 55 N2={RATIO1} 56 57 N3={RATIO2}
.ENDS IDEAL3W
.ENDS SIMPL3WTRANS

.SUBCKT SIMPLTRANS 48 50 51 55 vars: L1=1m RATIO=1
Lx 48 50 {L1}
Xx 48 50 51 55 IDEALTRANS vars: RATIO={RATIO}
.SUBCKT IDEALTRANS 48 50 51 55 vars: RATIO=1
!Tx N_WIND=2 48 50 N1=1 51 55 N2={RATIO}
.ENDS IDEALTRANS
.ENDS SIMPLTRANS

.SUBCKT SIMPL5WTRANS 48 50 51 55 56 57 58 59 49 60 vars: L1=1m RATIO1=1 RATIO2=1 RATIO3=1 RATIO4=1
Lx 48 50 {L1}
Xx 48 50 51 55 56 57 58 59 49 60 IDEAL5W vars: RATIO1={RATIO1} RATIO2={RATIO2} RATIO3={RATIO3} RATIO4={RATIO4}
.SUBCKT IDEAL5W 48 50 51 55 56 57 58 59 49 60 vars: RATIO1=1 RATIO2=1 RATIO3=1 RATIO4=1
!Tx N_WIND=5 48 50 N1=1 51 55 N2={RATIO1} 56 57 N3={RATIO2} 58 59 N4={RATIO3} 49 60 N5={RATIO4}
.ENDS IDEAL5W
.ENDS SIMPL5WTRANS

.SUBCKT SIMPLIS_UC1825 48 50 51 55 56 57 58 59 49 60 61 62 63 64 65 66
.NODE_MAP INV 48
.NODE_MAP NI 50
.NODE_MAP COMP 51
.NODE_MAP CLK 55
.NODE_MAP RT 56
.NODE_MAP CT 57
.NODE_MAP RAMP 58
.NODE_MAP SS 59
.NODE_MAP ILIM_SD 49
.NODE_MAP GND 60
.NODE_MAP OUT_A 61
.NODE_MAP PGND 62
.NODE_MAP VC 63
.NODE_MAP OUT_B 64
.NODE_MAP VCC 65
.NODE_MAP VREF 66
E1_UVLO 67 60 68 60 8.8
!D_UVLO 69 60 65 67 MDUVLOM IC=0
.MODEL MDUVLOM COMP RIN=100MEG ROUT=10 VOL=0 VOH=5.00 HYSTWD=0.8 DELAY=0
R_STANDBY 65 60 8K
V_UNITY 68 60 1.0
SUVLO 65 74 69 60 MSUVLOM IC=OPEN
.MODEL MSUVLOM VCSW TH=2.5 HYSTWD=1 RON=10M ROFF=100MEG LOGIC=POS
G1_VREF 60 75 74 60 1.0
!RZEN_VREF 75 60 MRZEN_VREFM IC=3
.MODEL MRZEN_VREFM VPWLR NSEG=3 X0=-0.702 Y0=-20.75 X1=-0.700 Y1=-0.75 X2=5.60 Y2=6.00 X3=5.602 Y3=26.00
E2_VREF 76 60 75 60 1.0
R3_VREF 74 76 100K
E4_VREF 74 77 74 76 1.0
!RD_VREF 77 78 MRD_VREFM IC=2
V$$RD_VREF 78 66 0
.MODEL MRD_VREFM VPWLR NSEG=3 X0=0.00 Y0=0.00 X1=0.50 Y1=50N X2=0.5278 Y2=27.8M X3=100.5278 Y3=27.81M
F5_VREF 77 66 V$$RD_VREF 0.8
R6_VREF 66 60 2K
E1_GOOD_VREF 79 60 66 60 0.625
E2_GOOD_VREF 79 80 68 60 1M
!D_OUTPUT_INHIBIT 81 60 69 79 MDNAND_OUT_INHIBITM IC=1
.MODEL MDNAND_OUT_INHIBITM NAND2 RIN=100MEG ROUT=10 TH=2.5 HYSTWD=2M VOL=0 VOH=5 DELAY=0 LOGIC=POS
E1_RT 83 60 69 60 1.02
!RD_RT 83 84 MRD_RTM IC=1
V$$RD_RT 84 56 0
.MODEL MRD_RTM VPWLR NSEG=2 X0=0.00 Y0=0.00 X1=2.0995 Y1=10N X2=3.0995 Y2=10.0
F1_OSC 60 85 V$$RD_RT 1K
!RR_OSC 85 60 MRR_OSCM IC=1
.MODEL MRR_OSCM VPWLR NSEG=2 X0=0.00 Y0=0.00 X1=1.00 Y1=1.00 X2=2.60 Y2=3.00
GG_OSC 60 57 85 60 1M
E2_OSC 86 60 68 60 1.9
!D_OSC 87 60 57 86 MD_OSCM IC=0
.MODEL MD_OSCM COMP RIN=1000MEG ROUT=10 VOL=0 VOH=5 HYSTWD=1.8 DELAY=0
G3_OSC 57 60 87 60 3.6M
C4_OSC 57 60 100P
S_OSC 57 60 69 60 MS_OSCM IC=OPEN
.MODEL MS_OSCM VCSW TH=2.5 HYSTWD=1.0 RON=1K ROFF=100MEG LOGIC=NEG
F5_OSC 66 60 V$$RD_RT 1.0
E1_CLK 88 60 66 60 0.56
E2_CLK 89 88 87 60 0.42
!R_Q3_CLK 89 55 MR_Q3_CLKM IC=2
.MODEL MR_Q3_CLKM VPWLR NSEG=3 X0=0.00 Y0=0.00 X1=0.50 Y1=20N X2=0.60 Y2=1.0M X3=25.60 Y3=1.001M
!R_Q4_CLK 55 60 MR_Q4_CLKM IC=3
.MODEL MR_Q4_CLKM VPWLR NSEG=3 X0=-25.01 Y0=-41U X1=-10M Y1=-40U X2=100M Y2=400U X3=25.10 Y3=401U
E5_CLK 90 60 68 60 3.40
!D_CLK 91 60 55 90 MD_CLKM IC=0
.MODEL MD_CLKM COMP RIN=100MEG ROUT=10 VOL=0 VOH=5 HYSTWD=0.6 DELAY=0
EINT_EA 92 60 66 60 1
RDM_EA 93 48 100MEG
EPSRR_EA 93 50 65 60 5U
GDM_EA 60 94 93 48 5.6234K
GCM_EA 60 94 50 48 0.1
ROUT_EA 94 60 10
RO1_EA 94 95 190
V$RO1_EA 95 51 0
!RVLOW_EA 96 51 MRVLOW_EAM IC=2
VVLOW_EA 96 60 1.0
!RVHIGH_EA 51 97 MRVHIGH_EAM IC=2
VVHIGH_EA 92 97 0.9
HILIM_EA 98 60 V$RO1_EA 1K
!RILIM_EA 98 99 MRILIM_EAM IC=2
V$$RILIM_EA 99 60 0
FILIM_EA 94 60 V$$RILIM_EA 1
RO2_EA 92 51 100MEG
RO3_EA 51 60 100MEG
.MODEL MRVLOW_EAM VPWLR NSEG=3 X0=0.00 Y0=0.00 X1=0.50 Y1=10.0N X2=0.510 Y2=5.00M X3=2.510 Y3=5.01M
.MODEL MRVHIGH_EAM VPWLR NSEG=3 X0=0.00 Y0=0.00 X1=0.50 Y1=10.0N X2=0.510 Y2=5.00M X3=2.510 Y3=5.01M
.MODEL MRILIM_EAM VPWLR NSEG=3 X0=-3.50 Y0=-1MEG X1=-2.50 Y1=0.00 X2=1.30 Y2=0.00 X3=2.30 Y3=1MEG
E1_PWM 100 58 68 60 1.25
!D_PWM_PWM 101 60 100 51 MD_PWM_PWMM IC=0
.MODEL MD_PWM_PWMM COMP RIN=100MEG ROUT=10 VOL=0 VOH=5 HYSTWD=2U DELAY=0
G_ILM_PWM 60 102 103 60 1M
G_PWM_PWM 60 102 101 60 1M
R3_PWM 60 102 1K
C3_PWM 102 60 0.1P
G_SET_DOM 60 104 102 60 -20M
G_CLK_PWM 60 104 91 60 1M
R4_PWM 60 104 1K
!D_SRFF_PWM 105 106 60 102 104 MSRFF_PWMM IC=0
.MODEL MSRFF_PWMM SRFF RIN=100MEG ROUT=10 TH=2.5 HYSTWD=1.0 VOL=0 VOH=5 DELAY=0 LOGIC=POS
G_CLK_OR 60 108 91 60 1M
G_SRFF_OR 60 108 105 60 1M
R7_PWM 60 108 1K
!D_TFF_PWM 109 110 60 66 108 MTFF_PWMM IC=0
.MODEL MTFF_PWMM CLK_TFF RIN=100MEG ROUT=10 TH=2.5 HYSTWD=1.0 VOL=0 VOH=5 DELAY=0 LOGIC=POS TRIG_COND=0_TO_1
E_TFF_A_PWM 111 108 109 60 1.0
E_TFF_B_PWM 112 108 110 60 1.0
E_INHIBIT_SRC_A 113 111 81 60 1.0
E_INHIBIT_SINK_A 114 111 81 60 -100.0
E_INHIBIT_SRC_B 115 112 81 60 1.0
E_INHIBIT_SINK_B 116 112 81 60 -100.0
VOUT_SRC_A 63 117 1.3
SOUT_SRC_A 117 61 113 60 MSOUT_SRCM IC=OPEN
SOUT_SINK_A 61 118 114 60 MSOUT_SINKM IC=OPEN
VOUT_SINK_A 118 62 0.25
VOUT_SRC_B 63 119 1.3
SOUT_SRC_B 119 64 115 60 MSOUT_SRCM IC=OPEN
SOUT_SINK_B 64 120 116 60 MSOUT_SINKM IC=OPEN
VOUT_SINK_B 120 62 0.25
.MODEL MSOUT_SRCM VCSW TH=2.5 HYSTWD=1.0 RON=0.800 ROFF=300K LOGIC=NEG
.MODEL MSOUT_SINKM VCSW TH=2.5 HYSTWD=1.0 RON=1.833 ROFF=300K LOGIC=POS
E1_ILM 121 60 68 60 1.0
!D_ILM 103 60 49 121 MD_PWM_PWMM IC=0
E1_SD 122 60 68 60 1.4
!D_SD 123 60 49 122 MD_PWM_PWMM IC=0
EVREF_SS 124 60 66 60 1
!RI9U_SS 124 59 MRI9U_SSM IC=3
E3_SS 125 123 81 60 1
E4_SS 126 60 68 60 2.5
!D5_SS 127 60 125 126 MD5_SSM IC=0
Q6_SS 59 60 127 60 MQ6_SSM IC=OPEN
E11_SS 128 60 68 60 -116M
E12_SS 129 128 59 60 1
!RINHIBIT_SS 51 129 MRSAT_SSM IC=1
.MODEL MRI9U_SSM VPWLR NSEG=3 X0=-1.10M Y0=-90.101N X1=-100U Y1=-90.1N X2=0.01 Y2=9.01U X3=10.01 Y3=9.02U
.MODEL MD5_SSM COMP RIN=100MEG ROUT=10 VOL=0.0 VOH=5.00 HYSTWD=0.2 DELAY=0
.MODEL MQ6_SSM VCQPOS ROFF=500MEG RSAT=10 TH=2.499 HYSTWD=2M VSAT=0.1 GAIN=420U LOGIC=POS IFLOW=UNIDIR LEVEL=2
.MODEL MRSAT_SSM VPWLR NSEG=3 X0=0.00 Y0=0.00 X1=0.10 Y1=10N X2=0.15 Y2=4M X3=10.15 Y3=4.01M
.ENDS SIMPLIS_UC1825

.SUBCKT SIMPLIS_TFF 130 131 132 93 133
.NODE_MAP Q 130
.NODE_MAP QN 131
.NODE_MAP RTN 132
.NODE_MAP T 93
.NODE_MAP clk 133
!D_SIMPLIS_TFF 130 131 132 93 133 MTFF IC=0
.MODEL MTFF CLK_TFF RIN=10000000 ROUT=10 TH=2.5 HYSTWD=0.1 VOL=0 VOH=5 DELAY=0 LOGIC=POS TRIG_COND=0_TO_1
.ENDS SIMPLIS_TFF

.SUBCKT SIMPLIS_PERIODIC_OP$4 48 51
.NODE_MAP IN 48
.NODE_MAP OUT 51
!D_CYCLE 51 0 48 134 M1M IC=0
VREF 134 0 4
.MODEL M1M COMP RIN=10MEG ROUT=50 VOL=0 VOH=5 HYSTWD=0.002 DELAY=0
.ENDS SIMPLIS_PERIODIC_OP$4

.END
